US05300687
3-Trifluoromethylbenzylphosphonic acid
Diethyl 3-trifluoromethylbenzylphosphonate (3.0 g, 10.0 mmol) was dissolved in a mixture of 50 mL of conc hydrochloric acid and 1.5 mL of EtOH and was heated at reflux for 17 hours. After cooling the clear reaction mixture in an ice-water mixture, the white crystalline solid which formed was collected to give 2.05 g (84.3%) of the analytical product, mp=163°-164° C.; D.C.I.M.S.[MH+,241].

reactant | Diethyl 3-trifluoromethylbenzylphosphonate | 10.0 mmol, 3.0 g | FC(C=1C=C(CP(OCC)(OCC)=O)C=CC1)(F)F | C12H16F3O3P
solvent | hydrochloric acid | 50 mL | Cl | ClH
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | 3-Trifluoromethylbenzylphosphonic acid | 2.05 g, 84.3% | FC(C=1C=C(CP(O)(O)=O)C=CC1)(F)F | C8H8F3O3P
